US09107916B2
B. 2-[5-[[4-chloro-3-(2,2,2-trifluoroethoxy)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and [4-chloro-3-(2,2,2-trifluoroethoxy)phenyl]methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 4.41 (2H, d, J=7.6 Hz), 5.20 (2H, s), 5.73 (1H, d, J=2.0 Hz), 7.08 (1H, dd, J=2.0 Hz, 8.0 Hz), 7.14 (1H, d, J=2.0 Hz), 7.41-7.44 (2H, m), 7.57 (1H, d, J=1.6 Hz), 8.05 (1H, s), 8.67 (1H, d, J=4.8 Hz). [M+H] Calc'd for C18H12ClF3N4O2, 409. Found, 409.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | [4-chloro-3-(2,2,2-trifluoroethoxy)phenyl]methanol | ClC1=C(C=C(C=C1)CO)OCC(F)(F)F | C9H8ClF3O2
product | 2-[5-[[4-chloro-3-(2,2,2-trifluoroethoxy)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=C(C=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)OCC(F)(F)F | C18H12ClF3N4O2
